US05470896
Analogously to Example 19, starting from 53.1 g (0.2 mol) of 2,4,6-tris(dimethylaminomethyl)phenol and 9.2 g (0.2 mol) of lithium hydroxide there are obtained 54.3 g of lithium 2,4,6-tris(dimethylaminomethyl)phenolate in the form of an orange solid of which the elemental analysis is as follows:

reactant | 2,4,6-tris(dimethylaminomethyl)phenol | 0.2 mol, 53.1 g | CN(C)CC1=C(C(=CC(=C1)CN(C)C)CN(C)C)O | C15H27N3O
reactant | lithium hydroxide | 0.2 mol, 9.2 g | [OH-].[Li+]
product | lithium 2,4,6-tris(dimethylaminomethyl)phenolate | 54.3 g | CN(C)CC1=C(C(=CC(=C1)CN(C)C)CN(C)C)[O-].[Li+] | InChI=1S/C15H27N3O.Li/c1-16(2)9-12-7-13(10-17(3)4)15(19)14(8-12)11-18(5)6;/h7-8,19H,9-11H2,1-6H3;/q;+1/p-1
